US03975445
4 g. of 1-methoxycarbonyl-3-oxo-2,5,5-trimethyl-cyclopentane are dissolved in 60 ml. of chloroform. After the addition of 10 ml. of ethane dithiol, the solution is treated with 1.5 ml. of boron trifluoride etherate, stirred for 2 hours at room temperature, introduced into water and extracted with ether. The ether extract is evaporated. The remaining 7-methoxycarbonyl-6,8,8-trimethyl-1,4-dithia-spiro[4,4]nonane is purified by adsorption on silica gel. The oil obtained has the following I.R. absorption spectrum: 1737 cm-1 [ester CO]; 1434 cm-1 [--CH2 --S--]; 1254 and 1173 cm-1 [ester]. 3.1 g. of the 7-methoxycarbonyl-6,8,8-trimethyl-1,4-dithiaspiro[4,4]nonane are dissolved in 30 ml. of toluene. The solution is treated at 0°C. with 28 ml. of a 1.12-M solution of diisobutylaluminum hydride in benzene, stirred for 4 hours and, after the addition of ethyl acetate, introduced into water. The organic phase is separated and evaporated. There is obtained 7-hydroxymethyl-6,8,8-trimethyl-1,4-dithia-spiro[4,4]nonane which, after recrystallization from ether/hexane, has a melting point of 72°-74°C. 2 g. of the 7-hydroxymethyl-6,8,8-trimethyl-1,4-dithia-spiro-[4,4]nonane are dissolved in 280 ml. of acetone and 14 ml of water. After the addition of 3.5 g. of cadmium carbonate and 3.5 g. of mercury (II) chloride, the solution is stirred for 24 hours at room temperature. The mixture is subsequently filtered and and the filtrate evaporated. There is obtained 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopentane as an oil, whose 2,4-dinitrophenlhydrazone has a melting point of 144°-146°C. A solution of 9.5 g of pyridine in 150 ml of methylene chloride is treated with 6,0 g of chromium trioxide, stirred for 15 minutes at room temperature and, after the solution of 1.56 g of the 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopentane dissolved in a small amount of methylene chloride, stirred for a further 15 minutes at room temperature. The mixture is then introduced into water and extracted with ether. The ether extract is evaporated. The remaining 1-formyl-3-oxo-2,5,5-trimethyl-cyclopentane is purified by adsorption on silica gel and converted into the desired methyl-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-triphenylphosphonium bromide via the intermediate steps described in Example 2.

reactant | 1-methoxycarbonyl-3-oxo-2,5,5-trimethyl-cyclopentane | COC(=O)C1C(C(CC1(C)C)=O)C | C10H16O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethane dithiol | C(C)(S)S | C2H6S2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | water | O | H2O
product | 7-hydroxymethyl-6,8,8-trimethyl-1,4-dithia-spiro[4,4]nonane | OCC1C(C2(SCCS2)CC1(C)C)C | C11H20OS2
